US06737215B2
Synthesis of Methyl 2-Cyanoacrylate/T-Butyl Norbornene Carboxylate Copolymer
To a 35 (milliliter) ml pressure tube equipped with a Teflon coated stir bar and a threaded Teflon cap with O-ring was added MCA (1.46 g, 13.1 mmol), BNC (2.54 g, 13.1 mmol), THF (4 g), AIBN (120 mg) and acetic acid (200 mg). The reaction mixture was deaerated with nitrogen at a flow rate of 30 ml/min for 15 minutes. The vessel was then immediately capped tight using the Teflon screw cap. The vessel was placed in an oil-bath, which was preheated to 72° C. The reaction was allowed to proceed for three hours. The viscous reaction mass was cooled to room temperature and diluted with 20.5 ml of THF. The solution was poured dropwise into 75 ml of hexane while stirring. The white polymer was filtered, washed with hexane and dried overnight in a vacuum oven at 55° C. The isolated polymer had a yield of 64.6%. The polymer contained blocks of methyl cyanoacrylate. This block configuration yields acidic methylene groups in the backbone which can be utilized favorably. The molecular weight of the copolymer was determined using GPC technique (THF, polystyrene standards) and found to be Mw=5612, Mn=2349 and PD=2.39. The presence of both methyl ester and t-butyl ester containing monomers was verified by proton NMR (δ1.52, methyl and δ3.94, t-butyl). From the integration of these two peaks, the polymer was found to be contain 64% MCA and 36% BNC. The Tg of the polymer was measured using Differential Scanning Calorimeter (DSC) (TA Instruments, Model 2920) and found to be 137° C.

reactant | AIBN | 120 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | acetic acid | 200 mg | C(C)(=O)O | C2H4O2
reactant | hexane | 75 ml | CCCCCC | C6H14
reactant | THF | 20.5 ml | C1CCOC1 | C4H8O
reactant | THF | 4 g | C1CCOC1 | C4H8O
product | Methyl 2-Cyanoacrylate T-Butyl Norbornene Carboxylate | yield of 64.6% | C(#N)C(C(=O)OC)=C.C12(C=CC(CC1)C2)C(=O)OC(C)(C)C | InChI=1S/C12H18O2.C5H5NO2/c1-11(2,3)14-10(13)12-6-4-9(8-12)5-7-12;1-4(3-6)5(7)8-2/h4,6,9H,5,7-8H2,1-3H3;1H2,2H3
